US08455496B2
Preparation of Starting material 5-chloro-N-ethyl-N-methylpyrazine-2-carboxamide (SM-4)
The title compound (I-7a) was prepared by a method analogous to that described for the preparation of SM-1 using 5-chloropyrazine-2-carboxylic acid (2 g, 12.62 mmol) and ethyl-methyl-amine (0.846 g, 13.9 mmol) to afford the title compound 5-chloro-N-ethyl-N-methylpyrazine-2-carboxamide (SM-4: 2.05 g, 81%) as a clear oil

reactant | 5-chloropyrazine-2-carboxylic acid | 12.62 mmol, 2 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | ethyl-methyl-amine | 13.9 mmol, 0.846 g | C(C)NC | C3H9N
product | 5-chloro-N-ethyl-N-methylpyrazine-2-carboxamide | 2.05 g, 81% | ClC=1N=CC(=NC1)C(=O)N(C)CC | C8H10ClN3O
